US06680308B1
Preparation of 3-(N-Acetylhydroxyamino)-propylphosphonic Acid Monosodium Salt
A suspension of 3.8 g (0.02 mol) 3-(N-hydroxyamino)-propylphosphonic acid is introduced into 20 ml water and 4.51 g (0.044 mol) acetic anhydride are added drop by drop at room temperature. After the solution has been stirred for 1.5 hours at room temperature a pH of 2.5 is adjusted with 0.2 n NaOH, the solution is concentrated in the entire diaphragm pump vacuum, taken up twice in 40 ml water in each case, which are again removed by concentration and the oil is washed twice with 30 ml ether in each case, taken up in 50 ml water and a pH of 6.5 is adjusted with 1.6 g NaHCO3. After removal of volatile constituents under vacuum, 20 ml n-butanol are added to remove the residual water and are also removed under reduced pressure. The oil is boiled up twice with isopropanol, the isopropanol phase is discarded and the remaining glassy resin is pulverised with a spatula to a yellow solid (5.65 g). In order to recrystallise it, it is taken up in only a little methanol, filtered from the undissolved component and acetone is added dropwise to the filtrate. A first filtering results in 1 g product with a melting point of 175° C. Recrystallisation as described above is carried out again for further purification. (DE-A-27 33 658)

reactant | 3-(N-hydroxyamino)-propylphosphonic acid | 0.02 mol, 3.8 g | ONCCCP(O)(O)=O | C3H10NO4P
reactant | acetic anhydride | 0.044 mol, 4.51 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 3-(N-Acetylhydroxyamino)-propylphosphonic Acid Monosodium Salt | 1 g | [Na+].C(C)(=O)N(CCCP([O-])(O)=O)O | InChI=1S/C5H12NO5P.Na/c1-5(7)6(8)3-2-4-12(9,10)11;/h8H,2-4H2,1H3,(H2,9,10,11);/q;+1/p-1
